US07521469B2
Step A: N-[(Benzyloxy)carbonyl]-4-[(tert-butoxycarbonyl)oxy]phenylalanine
Potassium hydroxide is added to a solution of 10 mmol of N-[(benzyloxy)carbonyl]-4-hydroxyphenylalanine until a pH of 12 is reached. The reaction mixture is cooled in an ice bath, and 1.5 equivalents of Boc2O are added, and the mixture is then returned to ambient temperature whilst maintaining the pH of the solution at 12 by addition of solid potassium hydroxide. After 2 hours, a further 0.5 of an equivalent of Boc2O is added. After 18 hours, the mixture is then concentrated under reduced pressure and the aqueous phase is extracted with a mixture (1/1) of Et2O/petroleum ether. The aqueous phase is acidified in the cold state with 2M HCl until a pH of 1 is reached, and is then extracted twice with ethyl acetate. Chromatography (chloroform/methanol: 9.5/0.5) allows the expected product to be isolated.

reactant | Potassium hydroxide | [OH-].[K+]
reactant | N-[(benzyloxy)carbonyl]-4-hydroxyphenylalanine | 10 mmol | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)O | C17H17NO5
reactant | Boc2O | 1.5 equivalents | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
product | N-[(Benzyloxy)carbonyl]-4-[(tert-butoxycarbonyl)oxy]phenylalanine | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC1=CC=C(C=C1)OC(=O)OC(C)(C)C)C(=O)O | C22H25NO7
